* D:\Users\denis\OneDrive\Escritorio\-\Estudios\Facultad\Actuales\Taller de diseño de circuitos electrónicos\dce-g5-proyecto_integrador\Simulacion.asc
Q1 N005 N005 N003 0 TIP42C
Q2 N002 N005 N004 0 TIP42C
Q3 N005 Vref N006 0 TIP41C
Q4 N002 Vf N006 0 TIP41C
Q5 Vo N001 VIN 0 TIP42C
Q6 N001 N002 Vo 0 TIP41C
R5 Vo Vf 3.16k
R6 Vf 0 1k
RL Vo 0 {RL}
V1 Vref 0 {VREFDC} AC {VREFAC}
VIN VIN 0 {VINDC} AC {VINAC}
R8 VIN N003 {RE}
R9 VIN N004 {RE}
C3 Vo 0 1µ
Q7 N007 N007 0 0 TIP41C
Q8 N006 N007 0 0 TIP41C
R1 VIN N007 470
V2 -vin 0 -6.35
.model NPN NPN
.model PNP PNP
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.param VINDC 6.35
.param VINAC 1
.param VREFDC 1.2
.param VREFAC 0
.param RL 10
;dc VIN 4 24
;step param RE 1k 1.5k 100
.param RE=470
;.step param RL 1k 5 10
* Mido regulacion de linea
.meas DC Vo1rl FIND V(Vo) AT=12
.meas DC Vo2rl FIND V(Vo) AT=24
.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/12)
* Mido regulacion de carga
.meas OP Vo1rc FIND V(Vo) AT 100
.meas OP Vo2rc FIND V(Vo) AT 5
.meas OP Io1rc FIND I(RL) AT 100
.meas OP Io2rc FIND I(RL) AT 5
* Mido eficiencia
* -100*((V(vo)*I(RL))/(V(VIN)*I(VIN)))
.meas OP RegCar PARAM (-(Vo2rc-Vo1rc)/(Io2rc-Io1rc))
.MODEL BC557 PNP(
* + IS=3.834E-14
* + NF=1.008
* + ISE=1.219E-14
* + NE=1.528
* + BF=800
* + IKF=0.08039
* + VAF=21.11
* + NR=1.005
* + ISC=2.852E-13
* + NC=1.28
* + BR=14.84
* + IKR=0.047
* + VAR=32.02
* + RB=1
* + IRB=1E-06
* + RBM=1
* + RE=0.6202
* + RC=0.5713
* + XTB=0
* + EG=1.11
* + XTI=3
* + CJE=1.23E-11
* + VJE=0.6106
* + MJE=0.378
* + TF=5.595E-10
* + XTF=3.414
* + VTF=5.23
* + ITF=0.1483
* + PTF=0
* + CJC=1.084E-11
* + VJC=0.1022
* + MJC=0.3563
* + XCJC=0.6288
* + TR=1E-32
* + CJS=0
* + VJS=0.75
* + MJS=0.333
* + FC=0.8027 )
+ BF=800
+)
*From Philips SC04 "Small signal transistors 1991"
* Base spreading parameters (RB,IRB,RBM) estimated. TR derived using BCY58 data
.model BC546B npn ( IS=7.59E-15 VAF=73.4 BF=480 IKF=0.0962 NE=1.2665
+ ISE=3.278E-15 IKR=0.03 ISC=2.00E-13 NC=1.2 NR=1 BR=5 RC=0.25 CJC=6.33E-12
+ FC=0.5 MJC=0.33 VJC=0.65 CJE=1.25E-11 MJE=0.55 VJE=0.65 TF=4.26E-10
+ ITF=0.6 VTF=3 XTF=20 RB=100 IRB=0.0001 RBM=10 RE=0.5 TR=1.50E-07)
.MODEL 2SA940 PNP (IS=10F BF=93.7926 VAF=100 IKF=1.43805 ISE=2.91448F
+ NE=1.22255 BR=7.28345 IKR=1.77264 ISC=84.2577P NC=1.45361 RE=1 RC=413.104M
+ CJE=2P MJE=500M CJC=214.957P VJC=699.997M MJC=499.87M TF=37.4969N
+ XTF=500.001M VTF=10 ITF=14.2266M TR=10N)
.model BD136 PNP(Is=10f Xti=3 Eg=1.11 Vaf=95.7 Bf=178.7 Ise=134.1f Ne=1.553 Ikf=2 Nk=.8366 Xtb=1.5 Br=5 Isc=85f Nc=2 Ikr=0 Rc=0 Cjc=60p Mjc=.4 Vjc=.8 Fc=.8 Cje=115.6p Mje=.3766 Vje=.7703 Tr=116n Tf=500p Itf=1 Xtf=0 Vtf=10 QCO=1E-10 GAMMA=5n RCO=5)
.MODEL BD139_Cordell npn IS=150f BF=260 VAF=99 IKF=1.2 ISE=70f NE=1.2 NF=1.0 RB=5 RC=0.01 RE=0.08 CJE=293p MJE=0.33 VJE=0.67 CJC=49p MJC=0.39 VJC=0.52 FC=0.5 TF=585p XTF=10000 VTF=35 ITF=20 TR=10n BR=78 IKR=0.14 EG=1.21 XTB=1.14 XTI=3 NC=1.45 ISC=19p NR=1.0 VAR=7.5 IRB=0.03 RBM=0.001 XCJC=0.53 mfg=CA041311
.MODEL BD140 PNP ( IS=2.9537E-13 BF=201.4 NF=1.0 BR=23.765 NR=1.021 ISE=1.8002E-13 NE=1.5 ISC=7.0433p NC=1.38 VAF=137.0 VAR=8.41 IKF=1.0993 IKR=0.10 RB=1.98 RBM=0.01 IRB=0.011 RE=0.1109 RC=0.01 CJE=2.1982E-10 VJE=0.7211 MJE=0.3685 FC=0.5 CJC=6.8291E-11 VJC=0.5499 MJC=0.3668 XCJC=0.5287 XTB=1.4883 EG=1.2343 XTI=3.0 Vceo=80 Icrating=3 mfg=fairchild)
.MODEL TIP42C PNP(Is=66.19f Xti=3 Eg=1.11 Vaf=100 Bf=137.6 Ise=862.2f Ne=1.481 Ikf=1.642 Nk=.5695 Xtb=2 Br=5.88 Isc=273.5f Nc=1.24 Ikr=3.555 Rc=79.39m Cjc=870.4p Mjc=.6481 Vjc=.75 Fc=.5 Cje=390.1p Mje=.4343 Vje=.75 Tr=235.4n Tf=23.21n Itf=71.33 Xtf=5.982 Vtf=10 Rb=.1 Vceo=100 Icrating=6 mfg=Texas)
.MODEL TIP41C NPN (IS=7.55826e-11 BF=260.542 NF=1.11221 VAF=100 IKF=0.526814 ISE=1e-08 NE=2.18072 BR=26.0542 NR=1.5 VAR=1000 IKR=3.54059 ISC=1e-08 NC=1.63849 RB=4.56157 IRB=0.1 RBM=0.1 RE=0.0162111 RC=0.0810556 XTB=0.1 XTI=1 EG=1.206 CJE=1.93296e-10 VJE=0.4 MJE=0.259503 TF=1e-08 XTF=4.06972 VTF=7.1157 ITF=0.001 CJC=1.09657e-10 VJC=0.730921 MJC=0.23 XCJC=0.803085 FC=0.8 TR=9.01013e-08 PTF=0 Vceo=100 ICrating=6 mfg=ON_Semi)
.backanno
.end
