* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Buck.asc
V1 N002 0 12
Rsc N002 N001 0.33
CT N003 0 5n
D1 0 Vsw 1N5817
R2 Vo N004 10k
R1 N004 0 3.3k
R4 Vo 0 10
C1 N002 0 100µ
XU1 N001 Vsw N003 0 N004 N002 N001 N001 MC34063
L1 Vsw Vo 200µ Ipk=0.39 Rser=0.72 Rpar=0 Cpar=0 mfg="Coiltronics" pn="CTX300-3"
Co Vo 0 100µ
.model D D
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 1u 100n uic
.inc MC34063.lib
.options Gmin=1e-9  method=Gear
.backanno
.end
