* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 5\Buck-compensado\boost_average_CL.asc
C1 out 0 100µF
Rload out 0 {RLOAD}
L1 N001 out 738µ
XU1 vdd in N001 0 d CCM2 Ron=8m VD=0.5 RD=0.05
XU2 N007 N004 VPOS 0 y LT1215
C3 N006 N004 3.9nF
C4 N004 N003 13nF
R1 N003 y 8.6k
R2 N005 N006 360
R3 N005 N004 30k
Vref1 N007 0 PWL(0 1.2 8m 1.2 8.1m 1.21) AC 0
B1 d 0 V=limit(V(x), 0.01, 0.9)
Vz1 x y AC 1
R4 out N002 22.33k
R5 N002 0 1k
Vg1 VPOS 0 12 AC 1
L2 N002 N005 1Meg
V2 N008 0 AC 1
C2 N002 N008 1Meg
* Simulation directives
.lib average.lib
* Boost converter\naverage model
* .ac dec 300 1 100k
* .step param RLOAD list 8 20
;dc Vduty 0.2 0.9 0.01
.tran 0 12m 7m 1u
.param TiempoMuerto 310n
.param Duty (6.35/Vin)
.param fsw  200k
.param ton (Duty/fsw)
.param Vin 36
.param T (1/fsw)
* .param Duty (6.35/Vin * (1+TiempoMuerto/T))
.lib IR2104.lib
.lib 1N5822RL.LIB
* .tran 0 400u 0 uic
.param RLOAD 330
.lib LTC.lib
.backanno
.end
