* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 5\Buck-compensado\buck_average_CL.asc
XU2 N006 N003 VPOS 0 y LT1215
C3 N005 N003 2.2n
C4 N003 N002 22n
R1 N002 y 2k2
R2 N004 N005 220
R3 N004 N003 20k
Vref1 N006 0 PULSE(0 10 0 1n 1n {ton} {T}) AC 0
B1 d 0 V=limit(V(x), 0.01, 0.9)
Vz1 x y AC 1
Vg1 VPOS 0 12 AC 1
C1 out 0 150n
Rload1 out 0 {RLOAD}
L1 in out 738µ
Vg2 N001 0 {VIN} AC 0
XU1 N001 in in 0 d CCM2 Ron=8m VD=0.5 RD=0.05
R4 out N004 207
R5 N004 0 100
* Simulation directives
.lib average.lib
.ac dec 1000 1 100Meg
* .step param RLOAD list 4 10 20 330
* ;dc Vduty 0.2 0.9 0.01
* .tran 0 5m 0 1u
.param RLOAD 330
.param Duty (6.35/Vin)
.param fsw  200k
.param ton (Duty/fsw)
.param Vin 12
.param T (1/fsw)
* Dutys: {0.52916, 0.17638888}
.lib LTC.lib
.backanno
.end
