* C:\Users\corne\OneDrive\Documentos\Diogenes\Facultad\C2\Buck_lazo_cerrado\Buck-lazo-cerrado.asc
L§IL Vd Vcomp 700µ
C1 Vcomp 0 150n
R1 Vcomp 0 330
V1 vdd 0 12
R2 N007 N006 10
C2 N005 Vd 0.33µ
D1 vdd N005 D1n5822rl
C3 vdd 0 1µ
R3 N012 N010 10
D2 Vd VCC3 D1n5822rl
D3 0 Vd D1n5822rl
XU4 N004 0 VCC -VCC N003 LM2901
R5 VCC N003 5k
R6 N003 N004 220k
R7 N002 N004 5.1k
R8 N001 N003 39k
C4 N002 N001 100p
R9 N008 N009 100k
R10 N009 N011 100k
R11 N013 0 100k
R12 N015 0 2.5k
R13 N013 Vref 100k
R14 N015 N014 8.2k
D4 0 pwm D
V4 Vref 0 2.5
V5 VCC 0 {vcc}
V6 0 -VCC {vcc}
V2 N014 0 12
XIR2104 0 0 0 0 0 0 0 0 IR2104
XU2 N013 N009 VCC -VCC N008 TL081
XU3 0 N001 VCC -VCC N002 TL081
XU1 VCC3 N007 Vd irlz44zsl
XU5 Vd N012 0 irlz44zsl
V3 N018 0 SINE(6.35 0.1 200k)
R4 N019 N018 120
R16 0 N019 78
V7 VCC2 0 {vcc}
V8 0 -VCC2 {vcc}
V9 VCC3 0 {vcc}
V10 0 -VCC3 {vcc}
R15 N016 VCC2 60
XU11 VCC2 N016 N017 irlz44zsl
R28 N017 0 100
XU6 0 0 0 0 0 LTC6702
XU13 N010 N006 0 pwm vdd N005 Vd vdd IR2104
XU12 N008 N002 VCC2 -VCC2 pwm LM2901
R29 VCC pwm 10k
R30 N011 Vcomp {R_var}
R31 0 N011 100
.model D D
.lib C:\Users\corne\AppData\Local\LTspice\lib\cmp\standard.dio
.lib IR2104.lib
.lib 1N5822RL.LIB
.option noopiter
* .option gmin=1e-9
.lib irlz44zsl.spi
.param vcc 12
.lib lm2901.lib
.lib TL081.lib
* Banco de Suplentes
.tran 0 250u 0 5u
.option cshunt 1e-30
.option abstol 10p
* Tomemos con pinzas lo de las .options\nSon para que anden más rápido las simulacioens
.param R_var=207
;step param R_var list  51 100 220
.lib C:\Users\corne\OneDrive\Documentos\Diogenes\Facultad\C2\Buck_lazo_cerrado\irlz44zsl.spi
.lib C:\Users\corne\OneDrive\Documentos\Diogenes\Facultad\C2\dce-g5-proyecto_integrador\Checkpoint 5\IR2104.lib
.lib LTC3.lib
.lib TL081.lib
.backanno
.end
