* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 5\Buck_lazo_cerrado\Buck-lazo-cerrado3.asc
L§IL Vd Vcomp 700µ
C1 Vcomp 0 150n
R1 Vcomp 0 330
V1 vdd 0 12
R2 N007 N006 10
C2 N005 Vd 0.33µ
D1 vdd N005 D1n5822rl
C3 vdd 0 1µ
R3 N013 N009 10
D2 Vd VCC3 D1n5822rl
D3 0 Vd D1n5822rl
XU4 N004 0 VCC -VCC N003 LM2901
R5 VCC N003 3.3k
R6 N003 N004 180k
R7 N002 N004 18k
R8 N001 N003 39k
C4 N002 N001 220p
D4 0 pwm D
V4 Vref 0 2.5
V5 VCC 0 {vcc}
V6 0 -VCC {vcc}
XU3 0 N001 VCC -VCC N002 TL081
V7 VCC2 0 {vcc}
V8 0 -VCC2 {vcc}
V9 VCC3 0 {vcc}
V10 0 -VCC3 {vcc}
XU13 N009 N006 0 pwm vdd N005 Vd vdd IR2104
XU12 N008 N002 VCC2 -VCC2 pwm LM2901
R29 VCC pwm 1k
R30 N012 Vcomp {R_var}
R31 0 N012 100
M1 VCC3 N007 Vd Vd IRFZ44N
M2 Vd N013 0 0 IRFZ44N
XU7 Vref N010 VPOS 0 N008 LT1215
C5 N014 N010 2.2n
C6 N010 N011 22n
R17 N011 N008 2k2
R18 N012 N014 220
R19 N012 N010 2k2
.model D D
.lib C:\Users\---\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\---\AppData\Local\LTspice\lib\cmp\standard.mos
.lib IR2104.lib
.lib 1N5822RL.LIB
.option noopiter
* .option gmin=1e-9
.lib irlz44zsl.spi
.param vcc 12
.lib lm2901.lib
.lib TL081.lib
.tran 0 400u 0 5u
.option cshunt 1e-30
.option abstol 10p
* Tomemos con pinzas lo de las .options\nSon para que anden más rápido las simulacioens
.param R_var=207
;step param R_var list  51 100 220
.lib C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 5\Buck_lazo_cerrado\IR2104.lib
.lib LTC.lib
.lib TL081.lib
.backanno
.end
