* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\BUCKDRIVER.asc
XU1 N008 N006 0 N005 N002 N003 N004 N002 IR2104
M1 N001 N007 N004 N004 IRFHS8242
R1 N007 N006 4.7
R2 N010 N008 4.7
M2 N004 N010 0 0 IRFHS8242
V1 N005 0 PULSE(0 10 0 1n 1n {Tsw} {T})
V2 N002 0 {VSUP}
V3 N001 0 {VBAT}
L1 N004 N009 500µ
C1 N009 0 150p
R3 N009 0 6.35
D1 N002 N003 1N5819
C2 N004 N003 0.26µ
C3 0 N002 1µ
.model D D
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.mos
.param VBAT 24
.param VSUP 10
.param D=6.35/VBAT
.param fsw=200e3
.param Tsw=D*T
.param T=1/fsw
.tran 0 0.7m 0.5m
.lib C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\Infineon-IR2104-PSpice-SimulationModels-v01_00-EN\Model\IR2104.lib
.backanno
.end
