.SUBCKT LM385 A K
DF A K DMOD
V1 6 7 DC 1.2
11 2 4 1E-3
R1 K 2 3.08E5
R2 4 2 RMOD 1.235E3
R3 5 7 0.3
D1 K6 DMOD1
D2 2 7 DMOD2
E1 5 2 POLY(2) (4,2) (K,2) 0 1000 -1000
Q1 A 1 K TMOD
R4 K 1 3E6
C1 1 A 3.3E-11
L1 2 A 8.7E-3
R5 2 A 1.02E3
C2 2 A 6.8E-11
.MODEL RMOD RES (TC1=1.4E-5 TC2=-1E-6)
.MODEL DMOD D (RS=8.2)
.MODEL DMOD1 D (RS=1E-1)
.MODEL DMOD2 D (RS=1E-6)
.MODEL TMOD PNP (IS=8E-16 BF=1000)
.ENDS LM385