* C:\Users\corne\OneDrive\Documentos\Diogenes\Facultad\C2\dce-g5-proyecto_integrador\Checkpoint 4\Simus\PWM-campus\Ejemplo de modulador triangular en LTSPICE.asc
R5 N001 Va 33k
R1 VCC N004 89k
R2 N004 0 100k
V1 VCC 0 12
R3 Va N003 100k
R4 Vb N003 27k
V2 Vr 0 SINE(6.35 0.1 200k)
C1 Vb N001 100p
XU4 Vr Vb VCC 0 Vo LTC6702
XU8 N003 N002 VCC 0 Va LTC6702
XU7 N002 N001 VCC 0 Vb TL081
XU6 N004 N002 VCC 0 N002 TL081
.tran 0 100u 14u uic
.model IRF9540 PMOS(Level=3 Gamma=0 Delta=0 Eta=0 Theta=0 Kappa=0.2 Vmax=0 Xj=0
+ Tox=100n Uo=300 Phi=.6 Rs=64.15m Kp=10.18u W=1.5 L=2u
+ Vto=-3.646 Rd=62.45m Rds=444.4K Cbd=2.029n Pb=.8 Mj=.5 Fc=.5
+ Cgso=1.033n Cgdo=469.4p Rg=.3371 Is=54.08E-18 N=2 Tt=140n)
.model 1N4002 D (Is=14.11n N=1.984 Rs=33.89E-3 Ikf=94.81 Xti=3 Eg=1.110 Cjo=51.17E-12)
.inc LM324.lib
* R4 Aumentarla\nAumenta la ampl de la triang\nDismin la frec
* R3 Aumentarla\nDisminuye la ampl de la triang\nAumenta la frec
* C1 Aumentarla\n Aumenta la ampl de la triang\nDisminuye la frec
.lib LTC3.lib
.lib TL081.lib
.backanno
.end
