* source TLV3201
.EXTERNAL INPUT IN-
.EXTERNAL INPUT IN+
.EXTERNAL INPUT Vcc
.EXTERNAL INPUT OUT
.EXTERNAL INPUT GND
X_U1         IN+ IN- VCC GND OUT TLV3201
V_VINN2         VCC 0 5
V_VINN         IN- 0 2.5
R_R2         0 GND  1m TC=0,0 
V_V1         IN+ 0  
+SIN 2.5 100m 500k 0 0 0
